US08076345B2
A) 7-(Trifluoromethyl)quinoline
4-Chloro-7-(trifluoromethyl)quinoline (9.35 g, 0.0404 mol) was hydrogenated in the presence of 5% palladium on carbon (4 g) in methanol (180 mL) in the presence of triethylamine (6 mL). The solution was stirred for 3.5 hours, and then filtered through Celite. The filtrate was concentrated under reduced pressure, and the residue was treated with ethyl acetate and water. The organic layer was separated, washed with water (2×75 mL), dried over MgSO4, filtered, and concentrated under reduced pressure to a yellow solid.

reactant | 4-Chloro-7-(trifluoromethyl)quinoline | 0.0404 mol, 9.35 g | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | triethylamine | 6 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 4 g | [Pd] | Pd
solvent | methanol | 180 mL | CO | CH4O
product | 7-(Trifluoromethyl)quinoline | FC(C1=CC=C2C=CC=NC2=C1)(F)F | C10H6F3N
